US04207327
4-Amino-5-chloro-2-methoxy-N-(1,2-dimethyl-4-pyrazolidinyl)benzamide.
A stirred solution of equal molar amounts of 4-amino-5-chloro-2-methoxybenzoic acid and triethylamine in methylene chloride (0°-5° C.) was treated dropwise with a slight excess of ethylchlorocarbonate. After 1.0 hour a solution of 4-amino-1,2-dimethylpyrazolidine in methylene chloride was added and the mixture stirred for about two hours at room temperature. An aqueous solution of sodium bicarbonate was added to the reaction mixture, the organic phase separated and concentrated to give the product which melted at 169°-171° C.

reactant | 4-amino-5-chloro-2-methoxybenzoic acid | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | ethylchlorocarbonate | C(C)OC(=O)Cl | C3H5ClO2
reactant | 4-amino-1,2-dimethylpyrazolidine | NC1CN(N(C1)C)C | C5H13N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-Amino-5-chloro-2-methoxy-N-(1,2-dimethyl-4-pyrazolidinyl)benzamide | NC1=CC(=C(C(=O)NC2CN(N(C2)C)C)C=C1Cl)OC | C13H19ClN4O2
